US04384052
(Isophorone diamine-toluene diisocyanate adduct)
A toluene diisocyanate adduct was prepared by the following process: 23.8 parts of isophorone diamine were reacted with 1000 parts toluene diisocyanate over a period of 6.0 hours and at a temperature between 130° C. and 175° C. according to the general procedure of Examples 1-4 to produce a one-phase dark orange transparent liquid having an isocyanate content of 44.3 percent by weight.

reactant | isophorone diamine | CC1(CC(CC(C1)(C)CN)N)C | C10H22N2
reactant | toluene diisocyanate | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
reactant | isocyanate | [N-]=C=O
product | Isophorone diamine toluene diisocyanate | CC1(CC(CC(C1)(C)CN)N)C.CC=1C(N=C=O)=CC(N=C=O)=CC1 | InChI=1S/C10H22N2.C9H6N2O2/c1-9(2)4-8(12)5-10(3,6-9)7-11;1-7-2-3-8(10-5-12)4-9(7)11-6-13/h8H,4-7,11-12H2,1-3H3;2-4H,1H3
